US05244908
Synthesis of 5-[2-[2-(hydroxy)benzoylamino]ethylthio]imidazo[1,2-a]pyridine (Compound 162)
To a solution of 5-[2-(amino)ethylthio]imidazo[1,2-a]pyridine (3.87 g, 20 mmoles) and triethylamine (5.58 ml, 40 mmoles) in methylene chloride (200 ml) was added o-acetylsalicyloyl chloride (4.77 g, 24 mmoles) under ice-cooling with stirring and the mixture was stirred at room temperature for 30 minutes. After the solvent was distilled off, ethanol (60 ml) and 1N NaOH (40 ml) were added to the residue, followed by stirring for 1 hour. 1N HCl (40 ml) was added and ethanol was distilled off, and then the residue was extracted with chloroform and dried over anhydrous magnesium sulfate. After the solvent was distilled off, the residue was purified by column chromatography (eluent: ethyl acetate/ethanol=10:1) to obtain 3.51 g of the desired product (56.0%, colorless solid).

reactant | 5-[2-(amino)ethylthio]imidazo[1,2-a]pyridine | 20 mmoles, 3.87 g | NCCSC1=CC=CC=2N1C=CN2 | C9H11N3S
reactant | triethylamine | 40 mmoles, 5.58 ml | C(C)N(CC)CC | C6H15N
reactant | o-acetylsalicyloyl chloride | 24 mmoles, 4.77 g | C(C)(=O)C1(C(C(=O)Cl)C=CC=C1)O | C9H9ClO3
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 5-[2-[2-(hydroxy)benzoylamino]ethylthio]imidazo[1,2-a]pyridine | 3.51 g, 56.0% | OC1=C(C(=O)NCCSC2=CC=CC=3N2C=CN3)C=CC=C1 | C16H15N3O2S
